US04076821
A mixture of 4.1 g of 4,4-diphenylcyclohexyl tosylate, 2.2 g of 4-piperidyl-2-benzimidazolinone, 1.5 g of potassium carbonate, 1.5 g of potassium iodide and 50 ml of dimethylformamide is stirred at 55° C for 47 hours. The reaction mixture is cooled to room temperature and poured into ice water. The precipitate is collected by filtration and dissolved in chloroform under warming. The solution is washed with water and dried over sodium sulfate, and the chloroform is removed under reduced pressure. To the residue is added ether, and the mixture is cooled. The precipitated crystals are collected by filtration and recrystallized twice from a mixture of methanol and chloroform. The crystals are dried at 100° C under reduced pressure for many hours, because the solvent is not easily removable. Thus is obtained 1-[1-(4,4-diphenylcyclohexyl)-4-piperidyl]-2-benzimidazolinone as light gray crystals, melting at 289°-293° C.

reactant | 4,4-diphenylcyclohexyl tosylate | 4.1 g | S(=O)(=O)(OC1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=C(C)C=C1 | C25H26O3S
reactant | 4-piperidyl-2-benzimidazolinone | 2.2 g | N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O | C12H15N3O
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 1.5 g | [I-].[K+]
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-[1-(4,4-diphenylcyclohexyl)-4-piperidyl]-2-benzimidazolinone | C1(=CC=CC=C1)C1(CCC(CC1)N1CCC(CC1)N1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C30H33N3O
